US04873241
To a stirred solution of 2,3-dihydro-2-phenyl-1H-inden-2-amine (10.2 g, 0.049 mol) in chloroform (200 mL) were added N-CBZ-glycine (10.8 g. 0.052 mol) and then a solution of dicyclohexylcarbodiimide (11.1 g, 0.053 mol) in chloroform (70 mL). The mixture was stirred for 18 hours at ambient temperature. The mixture was filtered and the solvent was evaporated. The residue was dissolved in ethyl acetate (200 mL) and filtered again. The filtrate was washed with 1N hydrochloric acid (2×100 mL), 2N sodium carbonate (2×100 mL), brine (100 mL) and dried over magnesium sulfate. The solvent was then evaporated. The residue was recrystallized from ethyl acetate (75 mL) and cyclohexane (150 mL) to provide 17.1 g of 2-[(carbobenzoxy)amino]-N-(2,3-dihydro-2-phenyl-1H-inden-2-yl)acetamide, mp 63°-70° C. To a solution of the latter (14.3 g, 0.037 mol) in methanol (200 mL), tetrahydrofuran (75 mL) and IN hydrochloric acid (70 mL), was added 10% palladium on carbon (1.4 g). The mixture was shaken on a Parr apparatus for 1.5 hours. The catalyst was removed by filtration, the solvents evaporated and the residue dissolved in chloroform (200 mL) and 2N sodium carbonate (200 mL). The aqueous layer was extracted with chloroform (2×100 mL). The combined chloroform extracts were washed with brine (100 mL), dried over magnesium sulfate, and the solvent evaporated. The residue was dissolved in methanol (50 mL) and 2-propanol (75 mL) and acidified with HCl gas. The solid which formed was collected by filtration and vacuum dried at 80° C. for 3 days to provide 7.3 g of 2-amino-N-(2,3-dihydro-2-phenyl-1H-inden-2-yl)acetamide, mp 275°-276° C.

reactant | 2,3-dihydro-2-phenyl-1H-inden-2-amine | 0.049 mol, 10.2 g | C1(=CC=CC=C1)C1(CC2=CC=CC=C2C1)N | C15H15N
reactant | N-CBZ-glycine | 0.052 mol, 10.8 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | dicyclohexylcarbodiimide | 0.053 mol, 11.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[(carbobenzoxy)amino]-N-(2,3-dihydro-2-phenyl-1H-inden-2-yl)acetamide | 17.1 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=CC=C1 | C25H24N2O3
